US07501406B2
c) 3,3,3-Trifluoro-propane-1-sulfonic acid ((R)-5,5-difluoro-2-oxo-azepan-3-yl)-(6-methoxy-pyridin-3-ylmethyl)-amide
A mixture containing trifluoroacetic acid/trifluoromethanesulfonic acid (5:2 v/v, 0.76 ml) was added to 3,3,3-trifluoro-propane-1-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-(6-methoxy-pyridin-3-ylmethyl)-amide (0.2 g, 0.24 mmol) in dichloromethane (10 ml). After 2 h the reaction mixture was concentrated under reduced pressure and the residue taken up in ethyl acetate and washed with water, saturated aqueous sodium bicarbonate and brine, dried (Na2SO4), filtered, concentrated under reduced pressure and purified over silica gel (heptane-ethyl acetate, 9:1-0:1): white solid 72 mg (69%);

reactant | trifluoroacetic acid trifluoromethanesulfonic acid | 0.76 ml | FC(C(=O)O)(F)F.FC(S(=O)(=O)O)(F)F
reactant | 3,3,3-trifluoro-propane-1-sulfonic acid [(R)-1-(2,4-dimethoxy-benzyl)-5,5-difluoro-2-oxo-azepan-3-yl]-(6-methoxy-pyridin-3-ylmethyl)-amide | 0.24 mmol, 0.2 g | COC1=C(CN2C([C@@H](CC(CC2)(F)F)N(S(=O)(=O)CCC(F)(F)F)CC=2C=NC(=CC2)OC)=O)C=CC(=C1)OC | C25H30F5N3O6S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3,3,3-Trifluoro-propane-1-sulfonic acid ((R)-5,5-difluoro-2-oxo-azepan-3-yl)-(6-methoxy-pyridin-3-ylmethyl)-amide | FC1(C[C@H](C(NCC1)=O)N(S(=O)(=O)CCC(F)(F)F)CC=1C=NC(=CC1)OC)F | C16H20F5N3O4S
